US06645990B2
1-(6-[(Piperidin-2-ylmethyl)-amino]-pyridin-2-yl}-3-(2-pyridin-4-yl-thiazol-4-yl)-urea
2-({6-[3-(2-Pyridin-4-yl-thiazol-4-yl)-ureido]-pyridin-2-ylamino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester (52 mg, 0.102 mmol) in MeOH (10 mL) was treated with TFA (0.1 mL, 1.3 mmol). The resulting mixture was heated at 50° C. for 24 h. The reaction mixture was cooled to RT and neutralized to pH between 8-9. Solvent was removed. The residue was partitioned between H2O and CHCl3. The organic layer was washed with H2O, brine, dried over MgSO4, and concentrated to give a yellow solid. MS m/z: 410.2 (M+H). Calc'd. for C20H23N7OS-409.17.

reactant | 2-({6-[3-(2-Pyridin-4-yl-thiazol-4-yl)-ureido]-pyridin-2-ylamino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.102 mmol, 52 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC(=CC=C1)NC(=O)NC=1N=C(SC1)C1=CC=NC=C1 | C25H31N7O3S
reactant | TFA | 1.3 mmol, 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | 10 mL | CO | CH4O
product | 1-(6-[(Piperidin-2-ylmethyl)-amino]-pyridin-2-yl}-3-(2-pyridin-4-yl-thiazol-4-yl)-urea | N1C(CCCC1)CNC1=CC=CC(=N1)NC(=O)NC=1N=C(SC1)C1=CC=NC=C1 | C20H23N7OS
